US07129239B2
Preparation of 1-[9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-4-isopropylaminopiperidine-4-carboxylic Acid Amide (10A-1)
6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (300 mg, 0.58 mmol) and 4-isopropylamino-piperidine-4-carboxylic acid amide (101 mg, 0.548 mmol) were suspended in ethanol/methylene chloride (3 ml/1 ml). Triethylamine (0.16 ml, 1.1 mmol) was added to the suspension and the mixture heated to 60° C. until the TLC determined complete (3 h). The reaction mixture was partitioned between saturated NaHCO3 solution and methylene chloride. The organic layer was dried (Na2SO4), filtered, and concentrated to dryness. The pure free base was isolated by silica gel chromatography using 2–4% methanol/methylene chloride as the gradient eluant to afford title compound 10A-1. A solution of the material in methylene chloride was treated with excess 1 N HCl in diethyl ether, stirred, evaporated to dryness, and then triturated in diethyl ether to afford the hydrochloride salt of compound 10A-1 as a tan solid (115 mg, 38%): +ESI MS (M+1) 558.2; 1H NMR (400 MHz, CD3OD) δ 8.40 (s, 1H), 7.60 (d, J=8.3 Hz, 1H), 7.56 (d, J=2.1 Hz, 1H), 7.51–7.44 (m, 3H), 7.33 (d, J=8.7 Hz, 2H), 5.20 (v br m, 2H), 3.87 (br m, 2H), 3.59 (septuplet, J=6.6 Hz, 1H), 2.68 (br d, J=13.7 Hz, 2H), 2.16 (ddd, J=14.5, 10.4, 4.1 Hz, 2H), 1.39 (d, J=6.6 Hz, 6H).

reactant | 6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | 0.58 mmol, 300 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | 4-isopropylamino-piperidine-4-carboxylic acid amide | 0.548 mmol, 101 mg | C(C)(C)NC1(CCNCC1)C(=O)N | C9H19N3O
reactant | Triethylamine | 1.1 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | ethanol methylene chloride | 3 ml | C(C)O.C(Cl)Cl
product | 1-[9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-4-isopropylaminopiperidine-4-carboxylic Acid Amide | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)N1CCC(CC1)(C(=O)N)NC(C)C | C26H26Cl3N7O
